US07501414B2
4-Bromo-2-methoxy-6-methyl-phenylamine
To 2-methoxy-6-methyl-phenylamine (10.0 g) dissolved in acetonitrile (200 mL) was added N-bromosuccinimide (14.3 g) and the reaction mixture was heated to 145° C. for 15 minutes in a sealed microwave process vessel. The crude mixture was filtered through Celite, diluted with diethyl ether (200 mL) and washed with sodium hydroxide (2 M, 2×100 mL) and brine (1×100 mL). The organic phase was dried over magnesium sulfate, concentrated in vacuo and purified by flash chromatography to furnish 3.4 g (26%) of the title compound as a black solid. 1H NMR (500 MHz, DMSO-d6): 2.06 (s, 3H), 3.77 (s, 3H), 4.55 (s, 2H), 6.78 (d, 1H), 6.82 (d, 1H).

reactant | 2-methoxy-6-methyl-phenylamine | 10.0 g | COC1=C(C(=CC=C1)C)N | C8H11NO
reactant | N-bromosuccinimide | 14.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 4-Bromo-2-methoxy-6-methyl-phenylamine | 3.4 g, 26% | BrC1=CC(=C(C(=C1)C)N)OC | C8H10BrNO
